US04256886
53 Mg. of methyl 2-amino-6-[3,6-dihydro-1(2H)-pyridyl]-4-pyrimidinecarbamate-3-oxide are dissolved in 5 ml. of methylene chloride. The solution is cooled to 0° C. and treated with 0.2 ml. of triethylamine and 0.12 ml. of 20% phosgene in toluene. The mixture is stirred for 30 minutes and then treated with 0.5 ml. of concentrated sodium hydroxide and 10 ml. of water. After stirring for 15 minutes, the two phases are separated, and the organic phase is again washed with water. The combined aqueous phases are acidified with hydrochloric acid, there being obtained pure methyl 5-[3,6-dihydro-1(2H)-pyridyl]-2-oxo-2H-[1,2,4]-oxadiazolo[2,3-a]pyrimidine-7-carbamate having a melting point of 213°-214° C.

reactant | methyl 2-amino-6-[3,6-dihydro-1(2H)-pyridyl]-4-pyrimidinecarbamate-3-oxide | NC1=NC(=CC(=[N+]1[O-])NC(=O)OC)N1CCC=CC1 | C11H15N5O3
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | methyl 5-[3,6-dihydro-1(2H)-pyridyl]-2-oxo-2H-[1,2,4]-oxadiazolo[2,3-a]pyrimidine-7-carbamate | N1(CCC=CC1)C1=NC=2N(C(=C1)NC(=O)OC)OC(N2)=O | C12H13N5O4
